### PR TITLE
[Merged by Bors] - chore:(MeasureTheory) replace `open scoped Classical` with `open scoped Classical in` or `classical` in a tactic proof.

### PR DESCRIPTION
**Pull request by kvanvels**
reduces some technical debt by replacing `open scoped Classical` with `open scoped classical in` or adding `classical` tactic to a tactic proof.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Decomposition/SignedHahn.lean [hunk 1]
```diff
@@ -109,11 +110,14 @@ private theorem findExistsOneDivLT_spec (hi : ¬s ≤[i] 0) :
   rw [findExistsOneDivLT, dif_pos hi]
   convert Nat.find_spec (existsNatOneDivLTMeasure_of_not_negative hi)
 
+
```
Comment (kvanvels) [inline Mathlib/MeasureTheory/Decomposition/SignedHahn.lean:113]: Remove this extra line.

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 2]
```diff
@@ -215,6 +219,7 @@ theorem support_indicator [Zero β] {s : Set α} (hs : MeasurableSet s) (f : α
     Function.support (f.piecewise s hs (SimpleFunc.const α 0)) = s ∩ Function.support f :=
   Set.support_indicator
 
+open scoped Classical in
```
Comment (kvanvels) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean:222]: doubly check this can't be a tactic.

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 3]
```diff
@@ -261,12 +266,14 @@ theorem range_map [DecidableEq γ] (g : β → γ) (f : α →ₛ β) : (f.map g
 theorem map_const (g : β → γ) (b : β) : (const α b).map g = const α (g b) :=
   rfl
 
+open scoped Classical in
```
Comment (kvanvels) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean:269]: check that this can't be a tactic.

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Basic.lean [hunk 4]
```diff
@@ -73,13 +73,15 @@ open scoped Classical ENNReal Topology MeasureTheory
 
 namespace MeasureTheory
   -- 𝕜 for ℝ or ℂ
+
```
Comment (kvanvels) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/Basic.lean:76]: remove extra line.

**Review by kvanvels — COMMENTED** [review]
Make sure that Mathlib/MeasureTheory/Function/ConditionalExpectation/Basic.lean is correct.  Don't want to undo someone else's work.

File: Mathlib/MeasureTheory/Decomposition/SignedHahn.lean (hunk 1 above)
Comment (kvanvels) [reply Mathlib/MeasureTheory/Decomposition/SignedHahn.lean:113]: fixed.

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/Basic.lean (hunk 4 above)
Comment (kvanvels) [reply Mathlib/MeasureTheory/Function/ConditionalExpectation/Basic.lean:76]: done.

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
